US05616537
Preparation of Allyl 5-(4,6-Dimethoxypyrimidin-2-yl)oxy-3-dimethylcarbamoyl-2-methylbenzofuran-4-carboxylate (Compound No. 248)
3.0 g of 4-allyloxycarbonyl-5-(4,6-dimethoxypyrimidin-2-yl)oxy-2-methylbenzofuran-3-carbonyl chloride was dissolved in 13 ml of dichloromethane, and 1.5 g of a 50% dimethylamine aqueous solution was dropwise added thereto under cooling with ice. After stirring for 30 minutes, the reaction solution was poured into water and extracted with dichloromethane. The organic layer was washed with water and then dried over anhydrous sodium sulfate. The oily substance obtained by concentration under reduced pressure, was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to obtain 1.84 g (yield: 60%) of the desired compound.

reactant | 4-allyloxycarbonyl-5-(4,6-dimethoxypyrimidin-2-yl)oxy-2-methylbenzofuran-3-carbonyl chloride | 3.0 g | C(C=C)OC(=O)C1=C(C=CC2=C1C(=C(O2)C)C(=O)Cl)OC2=NC(=CC(=N2)OC)OC | C20H17ClN2O7
reactant | dimethylamine | CNC | C2H7N
reactant | water | O | H2O
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
product | Allyl 5-(4,6-Dimethoxypyrimidin-2-yl)oxy-3-dimethylcarbamoyl-2-methylbenzofuran-4-carboxylate | 1.84 g, yield: 60% | COC1=NC(=NC(=C1)OC)OC1=CC=C2C(C(=C(O2)C)C(N(C)C)=O)=C1C(=O)OCC=C | C22H23N3O7
